US07300907B2
6-Amino-2-(4-chloro-2-fluoro-3-methoxy-phenyl)-pyrimidine-4-carboxylic acid methyl ester (778 mg, 2.5 mmol) and N-bromosuccinimide (489 mg, 2.75 mmol) were combined in chloroform and heated at reflux for 12 hours. The cooled reaction mixture was concentrated and the product was isolated by column chromatography to yield 6-amino-5-bromo-2-(4-chloro-2-fluoro-3-methoxyphenyl)pyrimidine-4-carboxylic acid methyl ester (752 mg, 77% yield): mp 173-175° C.: 1H NMR (CDCl3): δ 7.66 (dd, 1H), 7.24 (dd, 1H), 5.73 (br s, 2H), 4.03 (s, 3H), 4.01 (d, 3H).

reactant | 6-Amino-2-(4-chloro-2-fluoro-3-methoxy-phenyl)-pyrimidine-4-carboxylic acid methyl ester | 2.5 mmol, 778 mg | COC(=O)C1=NC(=NC(=C1)N)C1=C(C(=C(C=C1)Cl)OC)F | C13H11ClFN3O3
reactant | N-bromosuccinimide | 2.75 mmol, 489 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 6-amino-5-bromo-2-(4-chloro-2-fluoro-3-methoxyphenyl)pyrimidine-4-carboxylic acid methyl ester | 752 mg, 77% yield | COC(=O)C1=NC(=NC(=C1Br)N)C1=C(C(=C(C=C1)Cl)OC)F | C13H10BrClFN3O3
